Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
SSRI
 
Attending: ___
 
Chief Complaint:
s/p Depakote and Neurontin overdose
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
The patient is a ___ year old Caucasian female, past history of 
BPAD, opiate dependence, current alcohol dependence, one past SA 
by OD one year ago, two past psych hospitalizations, last one 
month ago at ___ who was transferred to ___ on ___ for 
further treatment s/p OD on Depakote and Neurontin. Per OMR, Pt 
was found down by father in home, who called EMS; subsequently 
transferred to ___ for further evaluation and treatment. 
.
In the MICU, she was intubated, received activated charcoal, and 
l-carnitine. Hospital course was significant for delerium in the 
setting of elevated LFT's and hyperammonemia, which trended 
down. She was extubated on hospital day 2 and transferred to the 
floor, where her ammonia and valproic acid levels continued to 
decline.  Patient denied any memory of ingesting anything. On 
the floor, pt c/o headache, most likely tension, which was 
treated with Tylenol. Ibuprofen held as pt c/o of epigastric 
tenderness. Amylase, lipase, and LFT's WNL at time of admission 
to Deaconess 4. Pt started on ranitidine for epigastric pain. 
She was put on a ___ protocol for management of withdrawal 
symptoms. She was followed by C/L psychiatry, who recommended 
discontinuing psych meds aside from seroquel 150 mg bid.  
.
Per OMR, pt stated she decided to overdose on meds when she had 
trouble
obtaining her other psych meds including thorazine, neurontin, 
seroquel, depakote, and lithium that she had recently been 
prescribed after her discharge from ___ in ___. 
She expressed long-standing frustration of the healthcare 
system-- she has not been seeing the same provider consistently, 
and as a result her medication regimen is changed frequently. Pt 
reported becoming angry/violent when she is not on her 
medications, experiencing significant anxiety characterized by 
palpitations, a sensation of chest pressure, diaphoresis, and 
feelings of restlessness. Also endorsed depressive symptoms 
including difficulty sleeping, feelings of guilt/worthlessness, 
SI, difficulty feeling pleasure while in the setting of numerous 
psychosocial stressors including not having custody of her 
children, living with her parents, unemployment. Has been 
drinking approximately 2 pints of hard liquor per day in order 
to help with anxiety symptoms. 
.
Also reported seeing shadows but was told it is related to 
alcohol withdrawal; has history of withdrawal seizures in past, 
blackouts, and tremors. She has been
hospitalized for withdrawal in past. Her last drink was ___. 

 
Past Medical History:
Past psychiatric history:
Dx: BPAD, Panic Disorder. Opiate Dependence, in remission.
Alcohol Dependence. 
Hospitalizations: 2 total, last one month ago at ___ s/p
SI. Previously one year ago at ___, s/p OD on sleeping
pills. 
SA/SIB: one past OD on sleeping pills in ___. Denies 
other SA or SIB. 
Treaters: upon recent discharge patient was given treaters but
did not follow due to financial issues. Last had treaters 
several
months ago at ___. 

PMHx: denies

Substance use history:
Alcohol: pt has been using approx 2 pints of hard alcohol daily
for the past several months, has been using more regularly in
___ years ago since she stopped opiates and custody battle.
Endorses withdrawal seizure last year, DTs in the past. 
Drugs: snorted heroin for several months approx ___ years ago,
went to rehab and has been sober from opiates since. Denies any
other drugs since or recently. States some past cocaine but not
regularly. 

 
Social History:
___
Family History:
Father: alcoholic
 
Physical ___:
Patient was fully ambulatory at time of discharge. 
97.8 101 114/70 18 96%RA
A/B: Appears younger than stated age, obese, dressed in street
clothes, calm, cooperative with interviewer, maintains good eye
contact, no psychomotor retardation or agitation. 
S: increased in rate rate, normal volume, normal prosody
M: "Better."
A: brighter, appropriate, mood congruent
TC: linear, goal oriented
TP: no A/V hallucinations, no SI/HI, no evidence of delusions
C: alert and oriented x3
I: fair
J: fair

 
Pertinent Results:
___ 06:50AM   PLT COUNT-168
___ 06:50AM   WBC-7.3 RBC-3.69* HGB-11.1* HCT-32.5* MCV-88 
MCH-30.1 MCHC-34.1 RDW-12.1
___ 06:50AM   VALPROATE-30*
___ 06:50AM   AMMONIA-33
___ 06:50AM   CALCIUM-8.7 PHOSPHATE-3.1 MAGNESIUM-1.8
___ 06:50AM   LIPASE-16
___ 06:50AM   AMYLASE-37
___ 06:50AM   GLUCOSE-95 UREA N-5* CREAT-0.6 SODIUM-139 
POTASSIUM-3.5 CHLORIDE-106 TOTAL CO2-23 ANION GAP-14
 
Brief Hospital Course:
This is a ___ year old female history of bipolar disorder, ___ 
transferred from MICU/medicine s/p OD of neurontin, depakote, 
alcohol; event possibly suicide attempt in the setting of 
numerous psychosocial stressors and being unable to obtain her
prescription medications.

Axis I: GAD, History of bipolar, polysubstance abuse, r/o MDD 
Axis II: deferred
Axis III: s/p Depakote and neurontin overdose 
Axis IV: severe: unemployed, lives at home with dysfunctional
parents, lost custody of children, multiple psych issues. 
Axis V: 30

#). Anxiety: Pt reports long history of severe anxiety with 
chest pressure, racing thoughts, diaphoresis, inner feeling of 
restlessness previously treated with numerous high-dose 
medication (thorazine, seroquel, neurontin). 
- Although akathesia was certainly on the differential, pt 
described feelings of restlessness prior to initiation of 
antipsychotics. In addition, stated anxiety sxs were best 
controlled on neurontin, thorazine, seroquel.  
- Due to concerns of polypharmacy in the setting of two prior 
overdoses, we initially held the patient's Depakote, Neurontin, 
Thorazine, and continued Seroquel 150 mg bid. 
- Started mirtazapine 30 mg qhs for anxiety and depression, 
however, pt continued to c/o severe anxiety symptoms. Eventually 
added Luvox that was tapered up to 150 mg qhs as well as 
thorazine 75 mg tid and 175 mg qhs, Neurontin 600 mg tid, and 
atenolol that was tapered to 50 mg po qd with careful monitoring 
of BP and HR. 
- Pt expressed concern that she would not be able to receive 
thorazine as an outpatient, so d/c'ed thorazine and started 
perphenazine 8mg tid, 16 qhs with significant improvement in 
anxiety symptoms. 

#). Ethanol dependence/PSA: Per OMR, pt reported drinking 
approximately 2 pints of hard liquor per day. Also h/o opiate 
dependence.
- CIWA scale initially started. Vital signs remained stable 
throughout hospitalization with no complications. 
- group/milieu therapy.

#). Depression, History of bipolar disorder: difficult to assess 
validity of diagnosis at this time, as the patient's only period 
of sobriety was during her pregnancies. However, no evidence of 
mania on this admission and no clear history of mania in the 
past. 
- The patient met diagnostic criteria for MDD, but has been 
abusing alcohol to control her anxiety symptoms. To target 
depressive and anxiety symptoms, we started mirtazapine and 
Luvox. 
- Held lithium and depakote therapy, particularly considering 
the hx of recent SA per overdosing. 
 
#) s/p overdose of depakote and neurontin: clinically stable. 
LFT's normalized, last depakote level= 30's. Not 
encephalopathic. 
- Patient remained medically stable throughout this admission. 

#). Legal/Safety: Pt was admitted to ___ on CV. She was 
able to maintain her safety throughout the admission on q15 
minute checks 

#). Dispo: Patient will be discharged to ___ 
Services in ___ as noted below. 

 
Medications on Admission:
Per outpatient pharmacy
Seroquel 100 mg po qhs
Seroquel XR 600mg po qd
Chlorpromazine 100 mg po qid
Lithium 300 mg po tid
Gabapentin 600 mg po tid
Depakote 500 mg po bid
 
Discharge Medications:
1. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
Tablet(s) 
2. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*1*
3. mirtazapine 30 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).
Disp:*30 Tablet(s)* Refills:*1*
4. quetiapine 300 mg Tablet Sig: 0.5 Tablet PO BID (2 times a 
day) as needed for anxiety.
Disp:*15 Tablet(s)* Refills:*1*
5. gabapentin 300 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day).
Disp:*180 Capsule(s)* Refills:*1*
6. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*
7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*
8. perphenazine 8 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day): take 1 tab three times daily as needed for anxiety at 2 
tabs at bedtime.
Disp:*150 Tablet(s)* Refills:*1*
9. fluvoxamine 50 mg Tablet Sig: Three (3) Tablet PO HS (at 
bedtime).
Disp:*150 Tablet(s)* Refills:*1*
10. atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: GAD, History of bipolar, polysubstance abuse, r/o MDD, 
Axis II: deferred
Axis III: s/p Depakote and neurontin overdose 
Axis IV: severe: unemployed, lives at home with dysfunctional
parents, lost custody of children, multiple psych issues. 
Axis V: 40

 
Discharge Condition:
Patient was fully ambulatory at time of discharge. 
97.8   101   114/70   18   96%RA
A/B: Appears younger than stated age, obese, dressed in street
clothes, calm, cooperative with interviewer, maintains good eye
contact, no psychomotor retardation or agitation. 
S: increased in rate rate, normal volume, normal prosody
M: 'Better.'
A: brighter, appropriate, mood congruent
TC: linear, goal oriented
TP: no A/V hallucinations, no SI/HI, no evidence of delusions
C: alert and oriented x3
I: fair
J: fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___